US08663903B2
A 2 L reactor was charged with 80.0 g (purity 66%), 208 mmol) of methacrylic acid 1-ethoxycarbonyl-1,1-difluoro-2-butyl ester and 80.0 g of water, followed by cooling down to 0° C., adding dropwise 84.8 g (320 mmol/1.5 equivalents) of 15 wt % sodium hydroxide aqueous solution, and stirring at room temperature for 1 hour. The reaction liquid was washed with 800 g of diisopropyl ether. The obtained aqueous layer was washed with diluted hydrochloric acid, followed by extraction with diisopropyl ether two times, removing water by magnesium sulfate, conducting filtration, and distilling diisopropyl ether out, thereby obtaining 15.2 g of the target methacrylic acid 1-hydroxycarbonyl-1,1-difluoro-2-butyl ester.

reactant | methacrylic acid 1-ethoxycarbonyl-1,1-difluoro-2-butyl ester | C(C)OC(=O)C(C(CC)OC(C(=C)C)=O)(F)F | C11H16F2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 80.0 g | O | H2O
product | methacrylic acid 1-hydroxycarbonyl-1,1-difluoro-2-butyl ester | OC(=O)C(C(CC)OC(C(=C)C)=O)(F)F | C9H12F2O4
